* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=1.86970591258e-10
.param C2=5.38413622555e-10
.param Csh=6.07095776617e-11
.param L1=5.12435856086e-07
.param Vsrc_amp=795.16230341
.param ne=4.33161632621e+14
.param nu_m=61913262.7564

* Sources
Vsrc src 0 SIN(0 795.16230341 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 15.8226098921
Lbulk nb ns 2.55560911954e-07
Csh ns n 6.07095776617e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
